* Schematics Netlist *



V_VDD         $N_0001 0 5V
V_Ve         $N_0002 0  
+PULSE 0 5 10n 2n 2n 40n 100n
M_M1         $N_0003 $N_0002 0 0 MbreakN-X  
+ L=1u  
+ W=2u         
C_C1         $N_0003 0  0.1pF  
R_RD         $N_0003 $N_0001  90k  
